US06331539B1
A solution of N1-[4-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl) butyl]-3-nitro-1-benzenesulfonamide hydrochloride (0.4 g) in methanol (250 ml) was charged with a catalytic amount of 10% palladium on carbon (0.085 g). The reaction was placed under an atmosphere of hydrogen (50 psi; 3.44×105 Pa) and shaken on a Parr apparatus for 2 hours. The reaction mixture was filtered and the solvent removed in vacuo. The solid product was recrystallized from 2-propanol to provide 0.18 g of N1-[4-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-3-amino-1-benzenesulfonamide hydrochloride as an off white crystalline solid, m.p. 110.2° C. (decomposition). 1H NMR (300 MHz, DMSO-d6) δ 8.70 (very broad s, 2H), 8.22 (d, J=8.2 Hz, 1H), 7.83 (d, J=7.8 Hz, 1H), 7.72 (t, J=7.6 Hz, 1H), 7.59 (t, J=7.7 Hz, 1H), 7.43 (t, J=5.9 Hz, 1H), 7.15 (t, J=7.9 Hz, 1H) 6.95 (t, J=1.9 Hz, 1H), 6.84 (d, J=7.7 Hz, 1H), 6.73 (dd, J=8.0, 1.5 Hz, 1H), 5.63 (broad s, 2H), 4.56 (t, J=7.5 Hz, 2H), 2.96 (t, J=7.7 Hz, 2H), 2.77 (q, J=6.3 Hz, 2H), 1.83 (m, 4H), 1.60-1.40 (m, 4H), 0.97 (t, J=7.3 Hz, 3H); IR (KBr) 3313, 3135, 2957, 2870, 2782, 1671, 1599, 1485, 1454, 1313, 1155, 1084, 754, 686 cm−1; MS (EI) m/e 466.2150 (466.2151 calcd for C24H3(N6O2S). Anal calcd for C24H3N6O2S*HCl*0.25H2O: C, 56.79; H, 6.26; N, 16.56; Cl, 6.98. Found: C, 56.87; H, 6.22; N, 16.19; Cl, 7.22.

reactant | N1-[4-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl) butyl]-3-nitro-1-benzenesulfonamide hydrochloride | 0.4 g | Cl.NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNS(=O)(=O)C2=CC(=CC=C2)[N+](=O)[O-])CCCC
solvent | methanol | 250 ml | CO | CH4O
catalyst | palladium on carbon | 0.085 g | [Pd] | Pd
product | N1-[4-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-3-amino-1-benzenesulfonamide hydrochloride | 0.18 g | Cl.NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNS(=O)(=O)C2=CC(=CC=C2)N)CCCC | InChI=1S/C24H30N6O2S.ClH/c1-2-3-13-21-29-22-23(19-11-4-5-12-20(19)28-24(22)26)30(21)15-7-6-14-27-33(31,32)18-10-8-9-17(25)16-18;/h4-5,8-12,16,27H,2-3,6-7,13-15,25H2,1H3,(H2,26,28);1H
